US07375115B2
Methyl 1-[2-[4-(5-methylpyridin-2-ylamino)piperidin-1-yl]ethyl]cyclohexanecarboxylate
To a solution of 2-(piperidin-4-ylamino)-5-methylpyridine (191 mg) and methyl 1-(2-oxoethyl)cyclohexanecarboxylate (250 mg) in tetrahydrofuran (10 mL) were added acetic acid (150 mg) and sodium triacetoxy borohydride (424 mg) at room temperature. The solution was stirred at room temperature for 20 hours. Saturated aqueous sodium bicarbonate solution was added to the solution, and it was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography [silica gel, ethyl acetate-methanol-aqueous ammonia (90:10:0.1)] to give the title compound (30 mg).

reactant | 2-(piperidin-4-ylamino)-5-methylpyridine | 191 mg | N1CCC(CC1)NC1=NC=C(C=C1)C | C11H17N3
reactant | methyl 1-(2-oxoethyl)cyclohexanecarboxylate | 250 mg | O=CCC1(CCCCC1)C(=O)OC | C10H16O3
reactant | sodium triacetoxy borohydride | 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 150 mg | C(C)(=O)O | C2H4O2
product | Methyl 1-[2-[4-(5-methylpyridin-2-ylamino)piperidin-1-yl]ethyl]cyclohexanecarboxylate | 30 mg | CC=1C=CC(=NC1)NC1CCN(CC1)CCC1(CCCCC1)C(=O)OC | C21H33N3O2
